US07741327B2
A mixture of (L)-leucine methyl ester hydrochloride (0.90 g, 4.96 mmol) in acetonitrile (12.4 mL) was treated with N,N-diisopropylethylamine (0.80 mL, 4.87 mmol). After addition was complete, the mixture was stirred at 60° C. for 45 min. At this time, the reaction was cooled to 25° C., treated with N,N-diisopropylethylamine (0.80 mL, 4.87 mmol) and acetonitrile (12.4 mL) and then heated to 80° C. Upon reaching 80° C., the reaction was treated with a solution of 4-bromo-3-(2,4-difluoro-phenoxy)-but-2-enoic acid ethyl ester (1.45 g, 4.51 mmol) in acetonitrile (11.3 mL). After the addition was complete, the reaction mixture was heated to 80° C. where it stirred overnight. At this time, the reaction mixture was cooled to 25° C. and was concentrated in vacuo. The residue was diluted with dichloromethane (75 mL) and was washed with a 2N aqueous hydrochloric acid solution (1×100 mL), a saturated aqueous sodium bicarbonate solution (1×100 mL), a saturated aqueous sodium chloride solution (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 15-50% ethyl acetate/hexanes) afforded (S)-2-[4-(2,4-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester (0.53 g, 35%) as a yellow oil: HR-ES-MS m/z calculated for C17H19NO4F2 [M+Na]+ 362.1174, observed 362.1174; 1H NMR (300 MHz, DMSO-d6) δ ppm 0.85 (d, J=6.5 Hz, 3H), 0.91 (d, J=6.5 Hz, 3H), 1.34-1.51 (m, 1H), 1.59 (ddd, J=13.8, 9.4, 4.4 Hz, 1H), 1.71-1.87 (m, 1H), 3.64 (s, 3H), 4.11-4.31 (m, 2H), 4.71 (dd, J=11.3, 4.4 Hz, 1H), 4.94 (s, 1H), 7.07-7.27 (m, 1H), 7.42-7.70 (m, 2H).

reactant | (L)-leucine methyl ester hydrochloride | 4.96 mmol, 0.90 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | N,N-diisopropylethylamine | 4.87 mmol, 0.80 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-diisopropylethylamine | 4.87 mmol, 0.80 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-bromo-3-(2,4-difluoro-phenoxy)-but-2-enoic acid ethyl ester | 4.51 mmol, 1.45 g | C(C)OC(C=C(CBr)OC1=C(C=C(C=C1)F)F)=O | C12H11BrF2O3
solvent | acetonitrile | 12.4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 11.3 mL | C(C)#N | C2H3N
solvent | acetonitrile | 12.4 mL | C(C)#N | C2H3N
product | (S)-2-[4-(2,4-difluoro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid methyl ester | 0.53 g, 35% | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=C(C=C1)F)F)=O)=O | C17H19F2NO4
